US09108977B2
To a solution of 193 mg of t-butyl 11-chloro-1,2,3,4,6,7,9,10-octahydro-8H-azepino[4,5-g]quinoline-8-carboxylate in 2 ml of toluene was added 0.121 ml of isobutyric chloride, followed by stirring at 60° C. The reaction mixture was purified by silica gel chromatography (elution solvent: HEX-EtOAc) to obtain 80 mg of t-butyl 11-chloro-1-isobutyryl-1,2,3,4,6,7,9,10-octahydro-8H-azepino[4,5-g]quinoline-8-carboxylate as a colorless solid.

reactant | t-butyl 11-chloro-1,2,3,4,6,7,9,10-octahydro-8H-azepino[4,5-g]quinoline-8-carboxylate | 193 mg | ClC=1C2=C(C=C3CCCNC13)CCN(CC2)C(=O)OC(C)(C)C | C18H25ClN2O2
reactant | isobutyric chloride | 0.121 ml | C(C(C)C)(=O)Cl | C4H7ClO
solvent | toluene | 2 ml | C1(=CC=CC=C1)C | C7H8
product | t-butyl 11-chloro-1-isobutyryl-1,2,3,4,6,7,9,10-octahydro-8H-azepino[4,5-g]quinoline-8-carboxylate | 80 mg | ClC=1C2=C(C=C3CCCN(C13)C(C(C)C)=O)CCN(CC2)C(=O)OC(C)(C)C | C22H31ClN2O3
